US08202858B2
4-[3-(4-Cyclopropyl-piperazin-1-yl)-propoxy]-3-fluoro-benzoic Acid
4-[3-(4-Cyclopropyl-piperazin-1-yl)-propoxy]-3-fluoro-benzoic acid ethyl ester from Example E48.2 (1.0 g, 2.9 mmol) was dissolved in dioxan (10 ml) and 2N NaOH solution (3 ml, 6.0 mmol) was added. The mixture was heated at 60° C. for 18 h then concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 1% 35% ammonia:19% methanol:80% dichloro-methane) to yield the title compound (920 mg, 100%).

reactant | 4-[3-(4-Cyclopropyl-piperazin-1-yl)-propoxy]-3-fluoro-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OCCCN1CCN(CC1)C1CC1)F)=O | C19H27FN2O3
reactant | NaOH | 6.0 mmol, 2N, 3 ml | [OH-].[Na+]
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(4-Cyclopropyl-piperazin-1-yl)-propoxy]-3-fluoro-benzoic Acid | 920 mg, 100% | C1(CC1)N1CCN(CC1)CCCOC1=C(C=C(C(=O)O)C=C1)F | C17H23FN2O3
